US04166174
A mixture of 1-ethoxycarbonyl-1,2,3,6-tetrahydro-2-[1-(4-chlorophenyl)-1-methylethyl]-4-methylpyridine (14.5 g), sodium hydroxide (15 g) and diethylene glycol (150 ml) was refluxed for 5 hours. After cooling, water was added to the reaction mixture and the resulting mixture was extracted with benzene. The extract was washed with water and dried over potassium carbonate. After removal of benzene, the residue was distilled under reduced pressure to obtain 10.7 g of a colorless viscous mass of 2-[1-(4-chlorophenyl)-1-methylethyl]-1,2,3,6-tetrahydro-4-methylpyridine.

reactant | 1-ethoxycarbonyl-1,2,3,6-tetrahydro-2-[1-(4-chlorophenyl)-1-methylethyl]-4-methylpyridine | 14.5 g | C(C)OC(=O)N1C(CC(=CC1)C)C(C)(C)C1=CC=C(C=C1)Cl | C18H24ClNO2
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
reactant | diethylene glycol | 150 ml | C(COCCO)O | C4H10O3
solvent | water | O | H2O
product | 2-[1-(4-chlorophenyl)-1-methylethyl]-1,2,3,6-tetrahydro-4-methylpyridine | ClC1=CC=C(C=C1)C(C)(C)C1NCC=C(C1)C | C15H20ClN
